US06822097B1
Step (a) Preparation of methyl 2-[2-(6-methyl-3-pyridyl)-1,3-thiazol-4-yl]acetate
This material was prepared by the procedure described for Example 24(a) using 6-methyl-thionicotinamide (Maybridge) (1.52 g, 10.0 mmol) and methyl 4-chloroacetoacetate (Fluka) (1.42 g, 10.0 mmol). Chromatography (gradient elution: 10-50% EtOAc in hexanes) of the crude material afforded the title compound as an off-white solid. MS m/z: 249 (M+1). Calc'd for C12H12N2O2S: 248.06.

reactant | 6-methyl-thionicotinamide | 10.0 mmol, 1.52 g | CC1=NC=C(C(=S)N)C=C1 | C7H8N2S
reactant | methyl 4-chloroacetoacetate | 10.0 mmol, 1.42 g | ClCC(CC(=O)OC)=O | C5H7ClO3
product | methyl 2-[2-(6-methyl-3-pyridyl)-1,3-thiazol-4-yl]acetate | CC1=CC=C(C=N1)C=1SC=C(N1)CC(=O)OC | C12H12N2O2S
